USRE039128E1
Step 4. Quinuclidin-4-ylcarbonyl chloride hydrochloride
Quinuclidine-4-carboxylic acid hydrochloride (0.192 g, 0.001 mole) was suspended in dichloromethane (5 ml) and dimethylformamide (1 drop) and oxalyl chloride (0.436 ml. 0.635 g, 0.005 mole) were added. The resulting suspension was heated to reflux under an atmosphere of argon for six hours. Following concentration of the suspension in vacuo the residue was suspended in dichloromethane, concentrated in vacuo and finally dried in vacuo to give the title compound as a pale brown solid.

reactant | Quinuclidine-4-carboxylic acid hydrochloride | 0.001 mole, 0.192 g | Cl.N12CCC(CC1)(CC2)C(=O)O
reactant | oxalyl chloride | 0.005 mole, 0.436 ml, 0.635 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | Quinuclidin-4-ylcarbonyl chloride hydrochloride | Cl.N12CCC(CC1)(CC2)C(=O)Cl | InChI=1S/C8H12ClNO.ClH/c9-7(11)8-1-4-10(5-2-8)6-3-8;/h1-6H2;1H
